US05565571
(R)-[3-(3-fluorophenyl)-2-oxo-5-oxazolidinyl]methyl azide
A mixture of (R)-[3-(3-fluorophenyl)-2-oxo-5-oxazolidinyl]methyl 4-methylbenzenesulfonate (PREPARATION 15, 2.340 g, 6.40 mmol) in dry DMF (60 ml) is treated with solid sodium azide (3--331 g, 51.23 mmmol) at 20°-25°. The resultant slurry is warmed to 65° for 4.5 hr and then cooled to 20°-25° and left overnight. The reaction mixture is then diluted with ethyl acetate and water, transferred to a separatory funnel, and extracted with ethyl acetate. The combined ethyl acetate extracts are washed thoroughly with water, and then dried (sodium sulfate), filtered and concentrated under reduced pressure to give the title compound. mp 81°-82°; [α]25D 136.5° (c 0.9, CHCl3); IR (mineral oil mull): 2115, 1736, 1614, 1591, 1586. 1497, 1422, 1233, 1199, 1081, 1049 cm-1 ; NMR (CDCl3, 300 MHz) δ 7.45, 7.34, 7.23, 6.86, 4.81, 4.09, 3.86, 3.72 and 3.60; MS (m/z) 236 (59.0, M+), 179, 136, 122, 109, 95, 75; HRMS (m/z) 236.0708 (calc'd for C10H9FN4O2 : 236.0709).

reactant | (R)-[3-(3-fluorophenyl)-2-oxo-5-oxazolidinyl]methyl 4-methylbenzenesulfonate | 6.40 mmol, 2.340 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1CN(C(O1)=O)C1=CC(=CC=C1)F | C17H16FNO5S
reactant | sodium azide | 3--331 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (R)-[3-(3-fluorophenyl)-2-oxo-5-oxazolidinyl]methyl azide | FC=1C=C(C=CC1)N1C(O[C@H](C1)CN=[N+]=[N-])=O | C10H9FN4O2
